US06511997B1
Synthesis of 3-(L-alanylamino)-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole hydrochloride
80 mg of 5-(4-fluorophenyl)-3-(N′-carbo-t-butoxy-L-alanylamino)-4-(4-pyridyl)pyrazole was dissolved in 2 ml of ethyl acetate. Then, 5 ml of a 2.9 mol/L solution of HCl in ethyl acetate was added thereto, followed by stirring at room temperature overnight. After the reaction mixture was concentrated under reduced pressure, the resulting residue was suspended in ethyl acetate. The precipitated powder was collected by filtration to obtain 60 mg (73% yield) of the title compound as a white powder.

reactant | 5-(4-fluorophenyl)-3-(N′-carbo-t-butoxy-L-alanylamino)-4-(4-pyridyl)pyrazole | 80 mg | FC1=CC=C(C=C1)C1=C(C(=NN1)NC([C@@H](NC(=O)OC(C)(C)C)C)=O)C1=CC=NC=C1 | C22H24FN5O3
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 3-(L-alanylamino)-5-(4-fluorophenyl)-4-(4-pyridyl)pyrazole hydrochloride | 60 mg, 73% yield | Cl.N[C@@H](C)C(=O)NC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | InChI=1S/C17H16FN5O.ClH/c1-10(19)17(24)21-16-14(11-6-8-20-9-7-11)15(22-23-16)12-2-4-13(18)5-3-12;/h2-10H,19H2,1H3,(H2,21,22,23,24);1H/t10-;/m0./s1
